US07932271B2
1-[5-Chloro-4-[(4-chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]pyridin-2-yl]-1-methylsulfonylhydrazine
To a methylene chloride (5 ml) solution of t-butyl N′-[5-chloro-4-[(4-chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]pyridin-2-yl]-N′-methylsulfonylhydrazine carboxylate (167 mg, 0.268 mmol) was added trifluoroacetic acid (2.5 ml). The resulting mixture was stirred at room temperature for 21 hours, followed by concentration under reduced pressure. To the residue thus obtained was added a saturated aqueous solution of sodium bicarbonate. The resulting mixture was extracted with methylene chloride. The organic layer obtained by separation was dried over anhydrous sodium sulfate, and filtered. The filtrate was concentrated under reduced pressure. The residue thus obtained was subjected to flash silica gel column chromatography. The fraction obtained from the hexane:ethyl acetate (=2:1) eluate was concentrated under reduced pressure to afford the title compound (91 mg, 0.174 mmol, 65%) as a white solid. The resulting solid was washed with ether and collected by filtration to give the title compound (60 mg) as a white powder.

reactant | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
reactant | t-butyl N′-[5-chloro-4-[(4-chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]pyridin-2-yl]-N′-methylsulfonylhydrazine carboxylate | 0.268 mmol, 167 mg | ClC=1C(=CC(=NC1)N(NC(=O)OC(C)(C)C)S(=O)(=O)C)C(C1=C(C=CC(=C1)F)F)S(=O)(=O)C1=CC=C(C=C1)Cl | C24H23Cl2F2N3O6S2
reactant | trifluoroacetic acid | 2.5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | hexane | CCCCCC | C6H14
product | 1-[5-Chloro-4-[(4-chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]pyridin-2-yl]-1-methylsulfonylhydrazine | 0.174 mmol, 91 mg, 65% | ClC=1C(=CC(=NC1)N(N)S(=O)(=O)C)C(C1=C(C=CC(=C1)F)F)S(=O)(=O)C1=CC=C(C=C1)Cl | C19H15Cl2F2N3O4S2
